US06544985B2
(5-Chloro-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared via the di-Boc-compound from commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7] (22.61 g, 94 mmol) and Boc2O (42.06 g, 193 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure B (method c). Obtained as a yellow solid (31.82 g, 99%).

reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 94 mmol, 22.61 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | Boc2O | 193 mmol, 42.06 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-Chloro-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C(F)(F)F)[N+](=O)[O-])=O | C12H12ClF3N2O4
